US07723381B2
4-(2-methyl-[1.3]dioxolan-2-yl)cyclohexylamine:
8.37 g (40 mmol) of 2-methyl-2-(4-nitrophenyl)-[1,3]dioxolane is placed in 160 mL of methanol and hydrogenated with 1.00 g of Nishimura catalyst at ambient temperature under a pressure of 50 psi. Then the catalyst is filtered off and the filtrate is concentrated by evaporation. The residue is dissolved in cyclohexane, filtered to remove insoluble matter, and the filtrate is evaporated to dryness. Yield: 7.00 g (94%), cis/trans ratio 77:23; NMR: LG201616.

reactant | 2-methyl-2-(4-nitrophenyl)-[1,3]dioxolane | 40 mmol, 8.37 g | CC1(OCCO1)C1=CC=C(C=C1)[N+](=O)[O-] | C10H11NO4
solvent | methanol | 160 mL | CO | CH4O
product | 4-(2-methyl-[1.3]dioxolan-2-yl)cyclohexylamine | CC1(OCCO1)C1CCC(CC1)N | C10H19NO2
